US08466181B2
Methyl 6-(4-(4-(2-fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinate
A mixture of 4-(2-fluorophenyl)-5-(1H-imidazol-4-yl)-1-methyl-1H-1,2,3-triazole (233 mg, 0.958 mmol), methyl 6-chloronicotinate (164 mg, 0.988 mmol) and potassium carbonate (265 mg, 1.92 mmol) in DMF (5.0 mL) was stirred under Ar in a sealed flask and heated at 120° C. for 3 h. After cooling to room temperature the mixture was poured into water and extracted with ethyl acetate and the combined extracts washed with water, brine, dried over sodium sulphate, filtered and evaporated. Purification by chromatography (silica, 50 to 100% ethyl acetate in heptane) afforded the title compound (303 mg, 79%) as a white solid. MS: m/e=379.2 [M+H]+.

reactant | 4-(2-fluorophenyl)-5-(1H-imidazol-4-yl)-1-methyl-1H-1,2,3-triazole | 0.958 mmol, 233 mg | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CNC1)C | C12H10FN5
reactant | methyl 6-chloronicotinate | 0.988 mmol, 164 mg | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | potassium carbonate | 1.92 mmol, 265 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | Methyl 6-(4-(4-(2-fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinate | 303 mg, 79% | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CN(C1)C1=NC=C(C(=O)OC)C=C1)C | C19H15FN6O2
